US06114325
2-[2-(Octadecylamino)-2-oxoethyl]benzyl-4-methyl-1-piperazinecarboxylate hydrochloride (Compound 43)
4N Hydrochloric acid--ethyl acetate solution (1.44 ml) was added to a solution of 2-[2-(octadecylamino)-2-oxoethyl]benzyl-4methyl-1-piperazinecarboxylate (2.60 g) in ethyl acetate (39 ml) at room temperature. After being stirred for 30 minutes, the reaction mixture was concentrated. The residue was recrystallized from ethyl acetate-ethanol mixed solvent, thereby yielding 2.42 g of the aimed compound as white solid.

reactant | Hydrochloric acid | 4N | Cl | ClH
reactant | 2-[2-(octadecylamino)-2-oxoethyl]benzyl-4methyl-1-piperazinecarboxylate | 2.60 g | C(CCCCCCCCCCCCCCCCC)NC(CC1=C(CC2N(CCN(C2)C)C(=O)[O-])C=CC=C1)=O
solvent | ethyl acetate | 39 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 1.44 ml | C(C)(=O)OCC | C4H8O2
product | 2-[2-(Octadecylamino)-2-oxoethyl]benzyl-4-methyl-1-piperazinecarboxylate hydrochloride | 2.42 g | Cl.C(CCCCCCCCCCCCCCCCC)NC(CC1=C(CC2N(CCN(C2)C)C(=O)O)C=CC=C1)=O | InChI=1S/C33H57N3O3.ClH/c1-3-4-5-6-7-8-9-10-11-12-13-14-15-16-17-20-23-34-32(37)27-30-22-19-18-21-29(30)26-31-28-35(2)24-25-36(31)33(38)39;/h18-19,21-22,31H,3-17,20,23-28H2,1-2H3,(H,34,37)(H,38,39);1H
